### PR TITLE
chore: cleanup

### PR DESCRIPTION
**Pull request by pitmonticone**

### CODE REVIEW

File: Carleson/ToMathlib/Data/ENNReal.lean [hunk 1]
```diff
@@ -54,7 +55,7 @@ lemma finsetSum_biSup {f : α → ι → ℝ≥0∞}
   induction t using Finset.cons_induction with
   | empty => simp
   | cons a t ha ihs =>
-    simp_rw [Finset.sum_cons, ihs]
+    simp only [Finset.sum_cons, ihs]
```
Comment (fpvandoorn) [inline Carleson/ToMathlib/Data/ENNReal.lean:58]: this is a regression (also below)

**Review by fpvandoorn — COMMENTED** [review]
I'm a bit worried about the performance of aesop, which is sometimes slow because it calls `simp_all` first. But if it's not noticeably slow in the places you've changed, I'm happy to merge this.

File: Carleson/ToMathlib/Data/ENNReal.lean (hunk 1 above)
Comment (pitmonticone) [reply Carleson/ToMathlib/Data/ENNReal.lean:58]: Ops, you're right. Sorry.

Comment (pitmonticone) [reply Carleson/ToMathlib/Data/ENNReal.lean]: Done

**Comment by pitmonticone** [comment]
No, `aesop` does not seem to degrade performance significantly in the places where I introduced it.
